US08957070B2
To a mixed solution of ethyl 7-[ethyl(2-thienylsulfonyl)amino]-4,5-dimethyl-1H-indole-2-carboxylate (210 mg) in tetrahydrofuran (8 ml)-methanol (8 mL) was added aqueous solution (5 mL) of 85% potassium hydroxide (100 mg), and the mixture was stirred at room temperature for 6 hr. The reaction solution was acidified with aqueous citric acid solution, extracted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 7-[ethyl(2-thienylsulfonyl)amino]-4,5-dimethyl-1H-indole-2-carboxylic acid (200 mg, yield:quantitative) as colorless crystals. To a mixture of the obtained crystals (200 mg), 1H-1,2,3-benzotriazol-1-ol-ammonia complex (100 mg) and N,N-dimethylformamide (8 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (130 mg) under ice-cooling, and the mixture was stirred at room temperature for 2 days. The reaction mixture was diluted with ethyl acetate, washed successively with aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=2:1) to give the title compound (200 mg, yield: quantitative) as colorless prism crystals.

reactant | ethyl 7-[ethyl(2-thienylsulfonyl)amino]-4,5-dimethyl-1H-indole-2-carboxylate | 210 mg | C(C)N(C=1C=C(C(=C2C=C(NC12)C(=O)OCC)C)C)S(=O)(=O)C=1SC=CC1 | C19H22N2O4S2
reactant | methanol | 8 mL | CO | CH4O
reactant | potassium hydroxide | 5 mL, 100 mg | [OH-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 7-[ethyl(2-thienylsulfonyl)amino]-4,5-dimethyl-1H-indole-2-carboxylic acid | 200 mg | C(C)N(C=1C=C(C(=C2C=C(NC12)C(=O)O)C)C)S(=O)(=O)C=1SC=CC1 | C17H18N2O4S2
